US08623889B2
N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)acetamide
To a solution of 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine (150 mg, 0.595 mmol) in pyridine (2 mL) was added acetyl chloride (56 mg, 0.714 mmol) dropwise at a temperature below 0° C. After the resulting mixture was stirred at room temperature for 2 h, water (2 mL) was added and it was concentrated under reduced pressure. The solid was washed with methanol and water to give the desired product (26.7 mg, 15.2%). LCMS (ESI): RT (min)=1.150, M+H+=294.8, method=A; 1H NMR (400 MHz, DMSO-d6) δ 10.62, (s, 1H), 9.14 (s, 1H), 8.47 (s, 1H), 8.00 (s, 1H), 7.93 (d, J=8.0 Hz, 1H), 7.68 (d, J=6.8 Hz, 1H), 7.35 (s, 1H), 7.15 (d, J=8.8 Hz, 2H), 2.22 (s, 3H), 2.12 (s, 3H).

reactant | 7-(5-fluoro-2-methylphenyl)isoquinolin-3-amine | 0.595 mmol, 150 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)N)C | C16H13FN2
reactant | acetyl chloride | 0.714 mmol, 56 mg | C(C)(=O)Cl | C2H3ClO
reactant | water | 2 mL | O | H2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-yl)acetamide | 26.7 mg, 15.2% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC(C)=O)C | C18H15FN2O
